US05652246
3-Isopropenyl-2(3H)-benzimidazolone
1 ml of a 47% potassium hydroxide solution and then 530 mmol of methyl acetoacetate in solution in 20 ml of xylene are added to 500 mmol of 2-aminoaniline in 150 ml of xylene heated to 120° C. The whole mixture is heated and the water/methanol mixture formed is removed by means of a Dean and Stark apparatus. The whole mixture is then brought to reflux for 3 hours. After cooling to 40° C., 83 ml of 47% potassium hydroxide and 55 ml of water are added. The alkaline aqueous phase is neutralized with acetic acid. The expected product then crystallizes; it is filtered off, washed with water and dried.

reactant | potassium hydroxide | [OH-].[K+]
reactant | methyl acetoacetate | 530 mmol | C(CC(=O)C)(=O)OC | C5H8O3
reactant | 2-aminoaniline | 500 mmol | NC1=C(N)C=CC=C1 | C6H8N2
reactant | water methanol | O.CO
solvent | xylene | 20 ml | C=1(C(=CC=CC1)C)C | C8H10
solvent | xylene | 150 ml | C=1(C(=CC=CC1)C)C | C8H10
product | 3-Isopropenyl-2(3H)-benzimidazolone | C(=C)(C)N1C(NC2=C1C=CC=C2)=O | C10H10N2O
